US09376442B2
4-(2-Ethoxy-5-fluorophenyl)-N-{1-[(2S)-2-hydroxypropanoyl]piperidin-4-yl}-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide
Starting from 4-(2-ethoxy-5-fluorophenyl)-6-methyl-N-(piperidin-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride (example D.f17) and commercially available (2S)-1-chloro-1-oxopropan-2-yl acetate the title compound is obtained as colorless solid.

reactant | 4-(2-ethoxy-5-fluorophenyl)-6-methyl-N-(piperidin-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride | Cl.C(C)OC1=C(C=C(C=C1)F)C=1C2=C(N=CN1)C(=C(N2)C)C(=O)NC2CCNCC2
reactant | (2S)-1-chloro-1-oxopropan-2-yl acetate | C(C)(=O)O[C@H](C(=O)Cl)C | C5H7ClO3
product | 4-(2-Ethoxy-5-fluorophenyl)-N-{1-[(2S)-2-hydroxypropanoyl]piperidin-4-yl}-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide | C(C)OC1=C(C=C(C=C1)F)C=1C2=C(N=CN1)C(=C(N2)C)C(=O)NC2CCN(CC2)C([C@H](C)O)=O | C24H28FN5O4
